US05576324
5-Methyl-2-[1-(2-thienylmethylamino)methyl]-2,3,6,7,8,9-hexahydrofuro-[2,3-f]quinoline-7-one.
A mixture of 2-methanesulfonyloxymethyl-5-methyl-2,3,6,7,8,9-hexahydrofuro-[2,3-f]quinoline-7-one (1350 g) and 2-aminomethylthiophene (7.06 g) was stirred in a hot bath (150° C.) for 1 hour in the stream of argon. The solvent was distilled off under reduced pressure, and the residue was dissolved in chloroform The obtained solution was washed with sodium bicarbonate water and water, then dried. When crystallized from ethanol, 0.790 g of a free base of the title compound was obtained in pale yellow prisms (mp.: 151°-153° C., yield: 55.5%).

reactant | 2-methanesulfonyloxymethyl-5-methyl-2,3,6,7,8,9-hexahydrofuro-[2,3-f]quinoline-7-one | 1350 g | CS(=O)(=O)OCC1CC=2C(=C3CCC(NC3=C(C2)C)=O)O1 | C14H17NO5S
reactant | 2-aminomethylthiophene | 7.06 g | NCC=1SC=CC1 | C5H7NS
product | 5-Methyl-2-[1-(2-thienylmethylamino)methyl]-2,3,6,7,8,9-hexahydrofuro-[2,3-f]quinoline-7-one | yield: 55.5% | CC=1C=C2C(=C3CCC(NC13)=O)OC(C2)CNCC=2SC=CC2 | C18H20N2O2S
